US07326786B2
Then similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, 2-hydroxy-2-methyl-propylamine and DIEA to give 2-(2-hydroxy-2-methyl-propylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 328 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | 2-hydroxy-2-methyl-propylamine | OC(CN)(C)C | C4H11NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-(2-hydroxy-2-methyl-propylamino)-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | OC(CNC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1)(C)C | C17H17N3O2S
